US04268675
b. Formation of 5-[1-(2,4-dichlorophenoxy)ethyl]-1,3,4-thiadiazol-2-yl isocyanate dimer
A 500 milliliter, neck flask equipped with a magnetic stirrer, thermometer, dry ice condenser/drying tube and inlet from a phosgene (COCl2) tank via a calibrated rotameter was charged with 50 milliliters of ethyl acetate saturated with phosgene at 20° C. (approximately 0.5 mole of phosgene). An additional 100 milliliters of ethylacetate was added and 10.0 grams of 5-[1-(2,4-dichlorophenoxy)ethyl]-2-amino-1,3,4-thiadiazole, (prepared above) was added. The resulting emulsion was stirred for 17 hours; and the flask was purged with nitrogen until no COCl2 was detected and a suspension formed. The solid was removed by filtration and dried in a vacuum oven at 80° C. to 5.9 grams of white crystals of 5-[1-(2,4-dichlorophenoxy)ethyl]-1,3,4-thiadiazol-2-yl isocyanate dimer. (Melting point 176°-179° C.).

reactant | phosgene | C(=O)(Cl)Cl | CCl2O
reactant | phosgene | approximately 0.5 mole | C(=O)(Cl)Cl | CCl2O
reactant | 5-[1-(2,4-dichlorophenoxy)ethyl]-2-amino-1,3,4-thiadiazole | 10.0 grams | ClC1=C(OC(C)C2=NN=C(S2)N)C=CC(=C1)Cl | C10H9Cl2N3OS
solvent | ethylacetate | 100 milliliters | C(C)OC(C)=O | C4H8O2
solvent | ethyl acetate | 50 milliliters | C(C)(=O)OCC | C4H8O2
product | 5-[1-(2,4-dichlorophenoxy)ethyl]-1,3,4-thiadiazol-2-yl isocyanate | ClC1=C(OC(C)C2=NN=C(S2)N=C=O)C=CC(=C1)Cl | C11H7Cl2N3O2S
